US06538004B2
4-(3-bromo-4-fluorophenyl)-1-methyl-1,2,4,7,8,9-hexahydropyrano[4,3-b]pyrazolo[4,3-e]pyridine-3,5-dione
Dihydro-2H-pyran-2,4(3H)-dione(0.11 g, 1 mmol), 3-bromo-4-fluoro-benzaldehyde (0.2 g, 1 mmol) and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.12g, 1 mmol) were processed as described in Example 26C to provide 0.27 g of the title compound. 1H NMR (300 MHz, DMSO-d6)6 2.55 (m, 1H), 2.8 (m, 1H), 3.5 (s, 3H), 4.22 (m, 2H), 4.86 (s, 1H), 7.2 (m, 2H), 7.41 (dd, 1H), 9.49 (s, 1H), 9.92 (s, 1H); MS (ESI−) m/z 392 (M−H−) Anal. Calcd for C16H13N3BrFO3.C2HO: C, 49.11;H, 4.35; N, 9.54. Found: C, 48.87;H, 4.24; N, 9.40.

reactant | Dihydro-2H-pyran-2,4(3H)-dione | 1 mmol, 0.11 g | O1C(CC(CC1)=O)=O | C5H6O3
reactant | 3-bromo-4-fluoro-benzaldehyde | 1 mmol, 0.2 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 1 mmol, 0.12g | NC1=CC(NN1C)=O | C4H7N3O
product | 4-(3-bromo-4-fluorophenyl)-1-methyl-1,2,4,7,8,9-hexahydropyrano[4,3-b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.27 g | BrC=1C=C(C=CC1F)C1C2=C(NC3=C1C(NN3C)=O)CCOC2=O | C16H13BrFN3O3
